US08703953B2
To a stirred solution of N-(7-fluoro-8-hydroxy-5H-chromeno[3,4-c]pyridin-2-yl)acetamide, TFA (70 mg, 0.170 mmol) and potassium carbonate (97 mg, 0.704 mmol) in DMF (4 mL) was added (S)-2-((tert-butoxycarbonyl)amino)-4-methylpentyl methanesulfonate (52.0 mg, 0.176 mmol) at room temperature and the reaction mixture was heated to 90° C. for 1 h. After completion of reaction, the volatiles were removed under reduced pressure to afford a brown residue. To this residue water (15 mL) was added and the solution extracted with ethyl acetate (2×20 mL). The combined organic layers were washed with water (30 mL), brine (20 mL), dried over sodium sulphate and concentrated under reduced pressure to afford (S)-tert-butyl(1-((2-acetamido-7-fluoro-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate (90 mg, 0.066 mmol, 37% yield) as a brown oil. The product was carried forward without further purification. LCMS (ESI) m/e 472.2 [(M−H)−, calcd for C25H31FN3O5 472.2]; LC/MS retention time (Method E): tR=1.99 min.

reactant | N-(7-fluoro-8-hydroxy-5H-chromeno[3,4-c]pyridin-2-yl)acetamide | FC1=C(C=CC2=C1OCC1=CN=C(C=C12)NC(C)=O)O | C14H11FN2O3
reactant | TFA | 0.170 mmol, 70 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | potassium carbonate | 0.704 mmol, 97 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-2-((tert-butoxycarbonyl)amino)-4-methylpentyl methanesulfonate | 0.176 mmol, 52.0 mg | CS(=O)(=O)OC[C@H](CC(C)C)NC(=O)OC(C)(C)C | C12H25NO5S
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | (S)-tert-butyl(1-((2-acetamido-7-fluoro-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate | 0.066 mmol, 90 mg, 37% yield | C(C)(C)(C)OC(N[C@H](COC=1C=CC2=C(C1F)OCC1=CN=C(C=C12)NC(C)=O)CC(C)C)=O | C25H32FN3O5
